US07709645B2
30 mg (76 μmol) of 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid and 46 mg (0.12 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate were dissolved in a mixture of 1.8 mL of acetonitrile and 0.2 mL of DMF. 40 μL (approx. 0.2 mmol; density unknown) of 1-(2-di-methylaminoethyl)-piperazine was added and the resulting mixture heated to 90° C. for 18 h. 40 mg (0.11 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate were added and the mixture heated to 100° C. for 3 days. The resulting mixture was distributed between a saturated aqueous solution of sodium bicarbonate and ethyl acetate. The aqueous layer was extracted three times with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated. The resulting crude was purified by mass-triggered reverse-phase HPLC to afford 5.0 mg (9.4 μmol, 12%) of {3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone as an ivory solid. 1H NMR (500 MHz, DMSO-d6) δ 11.91 (s, 1H), 8.49 (d, 1H), 8.12 (d, 1H), 7.77 (d, 1H), 7.73 (d, 1H), 7.63 (dd, 1H), 7.42 (d, 1H), 7.29 (ddd, 1H), 7.13 (d, 1H), 7.06 (ddd, 1H), 3.82 (s, 3H), 3.68-3.50 (m, br. 2H), 3.08-2.90 (m, br., 2H), 2.48-2.3 (m, 8H), 2.13 (s, 6H), MS: m/z 534.2 (M+H+), 548.2 (M+Na+).

reactant | 3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 76 μmol, 30 mg | ClC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)O | C21H15ClN2O4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.12 mmol, 46 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-(2-di-methylaminoethyl)-piperazine | approx. 0.2 mmol, 40 μL | CN(CCN1CCNCC1)C | C8H19N3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.11 mmol, 40 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 1.8 mL | C(C)#N | C2H3N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {3-chloro-2-hydroxy-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone | 9.4 μmol, 5.0 mg, 12% | ClC=1C(=C(C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(=O)N2CCN(CC2)CCN(C)C)O | C29H32ClN5O3
